US08034945B2
(d). 4-[3-Amino-5-bromo-4-(3-nitro-benzyloxy)-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile
A mixture of 4-(3-amino-5-bromo-4-hydroxy-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile (5 g), 3-nitrobenzyl bromide (2.72 g), potassium carbonate (3.65 g) and potassium iodide (400 mg) in DMF (100 ml) was stirred for 65 h at room temperature. The mixture was diluted with ethyl acetate and washed with water. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by chromatography on silicagel in heptane/ethyl acetate 1/0→0/1 (v/v) as eluent.

reactant | 4-(3-amino-5-bromo-4-hydroxy-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | 5 g | NC=1C=C(C=C(C1O)Br)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N | C20H22BrN3O2
reactant | 3-nitrobenzyl bromide | 2.72 g | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
reactant | potassium carbonate | 3.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 400 mg | [I-].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[3-Amino-5-bromo-4-(3-nitro-benzyloxy)-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | NC=1C=C(C=C(C1OCC1=CC(=CC=C1)[N+](=O)[O-])Br)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N | C27H27BrN4O4
